US04507498
A solution of 1.25 g (0.002 mole) of [4-acetyl-3-[2-[2-[2-[2-(4-acetyl-3-hydroxy-2-propylphenoxy)ethoxy]ethoxy]ethoxy]ethoxy]-2-propylphenoxy]acetic acid ethyl ester in 30 ml of methanol and 10 ml (0.01 mole) of 1.0N sodium hydroxide was stirred at reflux for 5 hours. Most of the solvent was removed in vacuo and the pH of the residue was adjusted to 2.0 with 6N hydrochloric acid. The product was extracted with methyl acetate and the dried (magnesium sulfate) extract was concentrated in vacuo to an oil which was purified by chromatography on 75 g of silica gel. Elution with toluene-ethyl acetate-acetic acid (65:25:10) gave 0.79 g (66% yield) of [4-acetyl-3-[2-[2-[2-[2-(4-acetyl-3-hydroxy-2-propylphenoxy)ethoxy]ethoxy]ethoxy]ethoxy]-2-propylphenoxy]acetic acid as an oil.

reactant | [4-acetyl-3-[2-[2-[2-[2-(4-acetyl-3-hydroxy-2-propylphenoxy)ethoxy]ethoxy]ethoxy]ethoxy]-2-propylphenoxy]acetic acid ethyl ester | 0.002 mole, 1.25 g | C(C)OC(COC1=C(C(=C(C=C1)C(C)=O)OCCOCCOCCOCCOC1=C(C(=C(C=C1)C(C)=O)O)CCC)CCC)=O | C34H48O11
reactant | sodium hydroxide | 0.01 mole, 1.0N, 10 ml | [OH-].[Na+]
solvent | methanol | 30 ml | CO | CH4O
product | [4-acetyl-3-[2-[2-[2-[2-(4-acetyl-3-hydroxy-2-propylphenoxy)ethoxy]ethoxy]ethoxy]ethoxy]-2-propylphenoxy]acetic acid | 0.79 g, 66% yield | C(C)(=O)C1=C(C(=C(OCC(=O)O)C=C1)CCC)OCCOCCOCCOCCOC1=C(C(=C(C=C1)C(C)=O)O)CCC | C32H44O11
